US04841042
Allyl 3-oxo-5-phthalimidopentanoate
A solution of 2.89 g (10.0 mmol) of ethyl 3-oxo-5-phthalimidopentanoate in 14 ml of allyl alcohol was heated at 80° C. in the presence of catalytic amounts of p-toluenesulphonic acid hydrate for 3 days. The solvent was then evaporated in vacuo and the residue was purified by chromatography on 170 g of silica gel (toluene:ethyl acetate 4:1). The title compound was obtained as colorless crystals, melting point: 53°-55° C., Rf: 0.40 (toluene:ethyl acetate 4:1).

reactant | ethyl 3-oxo-5-phthalimidopentanoate | 10.0 mmol, 2.89 g | O=C(CC(=O)OCC)CCN1C(C=2C(C1=O)=CC=CC2)=O | C15H15NO5
reactant | p-toluenesulphonic acid hydrate | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
solvent | allyl alcohol | 14 ml | C(C=C)O | C3H6O
product | Allyl 3-oxo-5-phthalimidopentanoate | O=C(CC(=O)OCC=C)CCN1C(C=2C(C1=O)=CC=CC2)=O | C16H15NO5
